US09290468B2
Step 6: methyl 4-fluoro-5-((2-chlorophenyl)amino)benzo[d][1,2,3]thiadiazole-6-carboxylate
To a solution of methyl 4-amino-5-(benzylthio)-3-fluoro-2-((2-chlorophenyl)amino)benzoate (2.50 g, 5.99 mmol) in acetic acid (60 mL) was added con. HCl (8 mL). The resultant was stirred at ambient temperature for 1 h. A solution of NaNO2 (0.45 g, 6.58 mmol) in water (10 mL) was added dropwisely at 0° C. in 20 min. After stirring for 3 h, the reaction was treated with saturated NaHCO3 (aq.) till the solution was neutral. The aqueous layer was extracted with ethyl acetate (30 mL×3). The combined organic phase was washed with water (30 mL) and brine (30 mL) sequentially, dried over Na2SO4, filtered and concentrated. The crude product was purified by column chromatography on silica gel (petroleum ether/ethyl acetate, 5:1, v/v) to give the corresponding product (yellow solid, 1.82 g, 90.1% yield). 1H NMR (400 MHz, CDCl3): δ 8.83 (s, 1H), 8.59 (d, 1H), 7.45 (m, 1H), 7.24 (m, 1H), 6.95 (m, 2H), 4.03 (s, 3H).

reactant | methyl 4-amino-5-(benzylthio)-3-fluoro-2-((2-chlorophenyl)amino)benzoate | 5.99 mmol, 2.50 g | NC1=C(C(=C(C(=O)OC)C=C1SCC1=CC=CC=C1)NC1=C(C=CC=C1)Cl)F | C21H18ClFN2O2S
reactant | HCl | 8 mL | Cl | ClH
reactant | NaNO2 | 6.58 mmol, 0.45 g | N(=O)[O-].[Na+]
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | acetic acid | 60 mL | C(C)(=O)O | C2H4O2
solvent | water | 10 mL | O | H2O
product | methyl 4-fluoro-5-((2-chlorophenyl)amino)benzo[d][1,2,3]thiadiazole-6-carboxylate | 90.1% yield | FC1=C(C(=CC2=C1N=NS2)C(=O)OC)NC2=C(C=CC=C2)Cl | C14H9ClFN3O2S
